US04645765
To a solution of A-isomer of 11-acetyl-4-dimethoxymethyl-8-oxo-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate (6 mg) in acetone (0.5 ml) was added p-toluene sulfonic acid (1 mg). The mixture was stirred for 1 hour at ambient temperature, and then subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform and acetone (5:1, v/v) to afford A-isomer of 4-formyl-8-oxo-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate (1 mg).

reactant | 11-acetyl-4-dimethoxymethyl-8-oxo-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate | 6 mg | C(C)(=O)OC=1C=C(C=C2N3CC4N(C4C(C(C12)=O)(O3)OC(C)=O)C(C)=O)C(OC)OC | C20H22N2O9
reactant | p-toluene sulfonic acid | 1 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 0.5 ml | CC(=O)C | C3H6O
product | 4-formyl-8-oxo-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate | 1 mg | C(C)(=O)OC=1C=C(C=C2N3CC4NC4C(C(C12)=O)(O3)OC(C)=O)C=O | C16H14N2O7
